US04835175
Under the conditions of Example 14(C), 9 g of 7-benzyloxyindole-2-carboxylic acid 2-dimethylaminoethyl ester is hydrogenated in a mixture of 50 ml of methanol and 50 ml of tetrahydrofuran and worked up, yielding 3.7 g of 7-hydroxyindole-2-carboxylic acid 2-dimethylaminoethyl ester, mp 149°-152° C.

reactant | 7-benzyloxyindole-2-carboxylic acid 2-dimethylaminoethyl ester | 9 g | CN(CCOC(=O)C=1NC2=C(C=CC=C2C1)OCC1=CC=CC=C1)C | C20H22N2O3
solvent | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 7-hydroxyindole-2-carboxylic acid 2-dimethylaminoethyl ester | 3.7 g | CN(CCOC(=O)C=1NC2=C(C=CC=C2C1)O)C | C13H16N2O3
